US05733913
6-Pyridin-2-yl-pyrido[2,3-d]pyrimidine-2,7-diamine
The procedure of Example 1 was followed to react 0.84 mL of 2-pyridylacetonitrile and 1.0 g of 2,4-diamino-5-pyrimidinecarboxaldehyde to afford the title compound, mp 312°-321° C.

reactant | 2-pyridylacetonitrile | 0.84 mL | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 2,4-diamino-5-pyrimidinecarboxaldehyde | 1.0 g | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-Pyridin-2-yl-pyrido[2,3-d]pyrimidine-2,7-diamine | N1=C(C=CC=C1)C1=CC2=C(N=C(N=C2)N)N=C1N | C12H10N6
